US04777252
(I) 4-Oxo-7,8-bis(phenylmethoxy)-4H-pyrido[1,2-a]pyrimidine-3-carbonyl chloride
To a suspension of 4-oxo-7,8-bis(phenylmethoxy)-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid (1.21 g, 3.0 mmol) in 30 ml of dichloromethane was added 0.69 g (3.3 mmol) of phosphorous pentachloride at 0° C. After stirring for 90 minutes, the solid was filtered off, washed with dichloromethane and dried in vacuo. Yield: 0.91 g; melting point 152.4° C.

reactant | 4-oxo-7,8-bis(phenylmethoxy)-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 3.0 mmol, 1.21 g | O=C1C(=CN=C2N1C=C(C(=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)C(=O)O | C23H18N2O5
reactant | phosphorous pentachloride | 3.3 mmol, 0.69 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-Oxo-7,8-bis(phenylmethoxy)-4H-pyrido[1,2-a]pyrimidine-3-carbonyl chloride | O=C1C(=CN=C2N1C=C(C(=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)C(=O)Cl | C23H17ClN2O4
